US05538976
5-[N-(4-Cyanophenyl)-N-(4-nitrophenyl)amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl)amino]pyrimidine and 4-fluoronitrobenzene

reactant | 5-[N-(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 5-[N-(4-Cyanophenyl)-N-(4-nitrophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(C1=CC=C(C=C1)[N+](=O)[O-])C=1C=NC=NC1 | C17H11N5O2
